US09226922B2
To a solution of (1S)-1-amino-1-phenylpropan-2-ol (0.43 g, 2 mmol) in H2O (2 mL) was added potassium cyanate (0.23 g, 2.7 mmol) and the contents were stirred at ambient temperature for 2 hr. The solid thus obtained was filtered and washed successively with H2O (2×5 mL) and dried in air to afford 1-((1S)-2-hydroxy-1-phenylpropyl)urea. MS: [M+H]+ m/z 195.

reactant | (1S)-1-amino-1-phenylpropan-2-ol | 2 mmol, 0.43 g | N[C@H](C(C)O)C1=CC=CC=C1 | C9H13NO
reactant | potassium cyanate | 2.7 mmol, 0.23 g | [O-]C#N.[K+]
solvent | H2O | 2 mL | O | H2O
product | 1-((1S)-2-hydroxy-1-phenylpropyl)urea | OC([C@H](C1=CC=CC=C1)NC(=O)N)C | C10H14N2O2
